US06919365B2
5,5- Dimethyl-3-naphthylcarbonylimidazolidine-2,4-dione (Compound 8)
5,5-Dimethylimidazolidine-2,4-dione potassium salt (1.47 g) was suspended in tetrahydrofuran (5 mL), 1-naphthoyl chloride (1.46 g) was added, and the mixture was stirred at room temperature overnight. Ethyl acetate (50 mL) was added to the reaction solution, and the mixture was filtered with a membrane filter (0.25 μm). The resulting organic layer was purified by silica gel chromatography (hexane:ethyl acetate=1:1) to obtain 674 mg of white crystals.

reactant | 5,5-Dimethylimidazolidine-2,4-dione potassium salt | 1.47 g | [K].CC1(C(NC(N1)=O)=O)C
reactant | 1-naphthoyl chloride | 1.46 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5,5- Dimethyl-3-naphthylcarbonylimidazolidine-2,4-dione | 674 mg | CC1(C(N(C(N1)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O)C | C16H14N2O3
